### PR TITLE
feat: BitVec.signExtend_eq_append_extractLsb'

### PR DESCRIPTION
**Pull request by bollu**
This PR implements the bitwuzla rule [BV_SIGN_EXTEND_ELIM](https://github.com/bitwuzla/bitwuzla/blob/main/src/rewrite/rewrites_bv.cpp#L3638-L3663), which rewrites a `signExtend x` as an `append` of the appropriate sign bits, followed by the bits of `x`.

### CODE REVIEW

**Comment by bollu** [comment]
changelog-library

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -2556,6 +2556,37 @@ theorem not_extractLsb'_append_not_extractLsb'_eq_not_extractLsb' {x : BitVec w}
...
 
+/-- A sign extension of `x : BitVec w`
+equals high bits of either `0` or `1` depending on `x.msb`,
+followed by the low bits of `x`. -/
+theorem signExtend_eq_append_extractLsb' {w v : Nat} {x : BitVec w} :
+    x.signExtend v =
+    ((if x.msb then allOnes (v - w) else 0#(v - w)) ++ x.extractLsb' 0 (min w v)).cast (by omega) := by
+  ext i hi
+  simp only [getElem_cast]
+  by_cases hx : x.msb
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Lemmas.lean:2567]:
```suggestion
  cases hx : x.msb
```
There should be no need for a by_cases here

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -2556,6 +2556,37 @@ theorem not_extractLsb'_append_not_extractLsb'_eq_not_extractLsb' {x : BitVec w}
...
+  · simp only [signExtend_eq_not_setWidth_not_of_msb_true hx, getElem_not, getElem_setWidth,
+    getLsbD_not, Bool.not_and, Bool.not_not, hx, ↓reduceIte, getElem_append, getElem_extractLsb',
+    Nat.zero_add, getElem_allOnes, dite_eq_ite, Bool.if_true_right]
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Lemmas.lean:2570]:
```suggestion
      getLsbD_not, Bool.not_and, Bool.not_not, hx, ↓reduceIte, getElem_append, getElem_extractLsb',
      Nat.zero_add, getElem_allOnes, dite_eq_ite, Bool.if_true_right]
```
Formatting nit: please indent multi-line simps, so that it's easier to see where the next tactic starts (also at other simps in the PR!)

File: src/Init/Data/BitVec/Lemmas.lean [hunk 3]
```diff
@@ -2556,6 +2556,37 @@ theorem not_extractLsb'_append_not_extractLsb'_eq_not_extractLsb' {x : BitVec w}
...
+    by_cases hw : i < w <;> simp [hw] <;> omega
+  · simp only [hx, signExtend_eq_setWidth_of_msb_false, getElem_setWidth, Bool.false_eq_true,
+    ↓reduceIte, getElem_append, getElem_extractLsb', Nat.zero_add, getElem_zero, dite_eq_ite,
+    Bool.if_false_right, Bool.iff_and_self, decide_eq_true_eq]
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Lemmas.lean:2574]:
```suggestion
      ↓reduceIte, getElem_append, getElem_extractLsb', Nat.zero_add, getElem_zero, dite_eq_ite,
      Bool.if_false_right, Bool.iff_and_self, decide_eq_true_eq]
```
See previous

File: src/Init/Data/BitVec/Lemmas.lean [hunk 4]
```diff
@@ -2556,6 +2556,37 @@ theorem not_extractLsb'_append_not_extractLsb'_eq_not_extractLsb' {x : BitVec w}
...
+    intros hi
+    by_cases hw : i < w
+    · omega
+    · have hcontra : i < w := lt_of_getLsbD hi
+      omega
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Lemmas.lean:2579]: Does this not work? Haven't tried, but it feels like it should
```suggestion
    have hw : i < w := lt_of_getLsbD hi
    omega
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 5]
```diff
@@ -2556,6 +2556,37 @@ theorem not_extractLsb'_append_not_extractLsb'_eq_not_extractLsb' {x : BitVec w}
...
+
+/-- A sign extension of `x : BitVec w` to a larger bitwidth `v ≥ w`
+equals high bits of either `0` or `1` depending on `x.msb`, followed by `x`. -/
+theorem signExtend_eq_append_of_le {w v : Nat} {x : BitVec w} (h : w ≤ v) :
+    x.signExtend v =
+    ((if x.msb then allOnes (v - w) else 0#(v - w)) ++ x).cast (by omega) := by
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Lemmas.lean:2585]:
```suggestion
    x.signExtend v
    = ((if x.msb then allOnes (v - w) else 0#(v - w)) ++ x).cast (by omega) := by
```
Nit: I personally like to put `=` on the second line of a multi-line statement, but I don't think we have a consistent style for this either way, so feel free to ignore.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 6]
```diff
@@ -2556,6 +2556,37 @@ theorem not_extractLsb'_append_not_extractLsb'_eq_not_extractLsb' {x : BitVec w}
...
+  ext i hi
+  by_cases hx : x.msb <;>
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Lemmas.lean:2587]:
```suggestion
  cases hx : x.msb <;>
```
Again, `by_cases` on a Bool feels excessive

File: src/Init/Data/BitVec/Lemmas.lean (hunk 1 above)
Comment (bollu) [reply src/Init/Data/BitVec/Lemmas.lean:2567]: Will be done in the next commit.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 4 above)
Comment (alexkeizer) [reply src/Init/Data/BitVec/Lemmas.lean]: I don't particularly care about the name, that's not what this suggestion was about.

I noticed that you do a case analysis on `i < w`, then in the negative case, prove that `i < w`, presumably to let omega find a contradiction. My suggestion was to get rid of the case analysis entirely, and just prove `i < w` directly (hence the use of `hw`; it wouldn't shadow the original `hw`, it would replace it).

Note that I haven't looked at the proof in a Lean session, so I might be missing something, but the proof `lt_of_getLsbD hi` looks like it should just work on line 2575, without needing the `by_cases` at all.

**Comment by alexkeizer** [comment]
This LGTM!

File: src/Init/Data/BitVec/Lemmas.lean [hunk 7]
```diff
@@ -2556,6 +2556,35 @@ theorem not_extractLsb'_append_not_extractLsb'_eq_not_extractLsb' {x : BitVec w}
...
+  cases hx : x.msb
+  · simp only [hx, signExtend_eq_setWidth_of_msb_false, getElem_setWidth, Bool.false_eq_true,
+      ↓reduceIte, getElem_append, getElem_extractLsb', Nat.zero_add, getElem_zero, dite_eq_ite,
+      Bool.if_false_right, Bool.iff_and_self, decide_eq_true_eq]
+    intros hi
+    have hw : i < w := lt_of_getLsbD hi
+    omega
+  · simp only [signExtend_eq_not_setWidth_not_of_msb_true hx, getElem_not, getElem_setWidth,
+      getLsbD_not, Bool.not_and, Bool.not_not, hx, ↓reduceIte, getElem_append, getElem_extractLsb',
+      Nat.zero_add, getElem_allOnes, dite_eq_ite, Bool.if_true_right]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:2576]: This `simp` can be simplified, most of these are implied by `simp`.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 8]
```diff
@@ -2556,6 +2556,35 @@ theorem not_extractLsb'_append_not_extractLsb'_eq_not_extractLsb' {x : BitVec w}
...
+    by_cases hw : i < w <;> simp [hw] <;> omega
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Lemmas.lean:2577]: Actually, found another simplification, you can replace the whole case distinction here, too, with a single `simp`.

```suggestion
    simp [Nat.lt_min, hi]
```

That also means you can pull in the preceding `simp` and drop the `only`, massively shortening the proof (assuming most of those are default simplemmas, as @tobiasgrosser mentions)

**Comment by alexkeizer** [comment]
Just pushed a commit with my last suggestion, once again, the PR LGTM

File: src/Init/Data/BitVec/Lemmas.lean [hunk 9]
```diff
@@ -2556,6 +2556,32 @@ theorem not_extractLsb'_append_not_extractLsb'_eq_not_extractLsb' {x : BitVec w}
     congr 1
     omega
 
+/-- A sign extension of `x : BitVec w`
+equals high bits of either `0` or `1` depending on `x.msb`,
+followed by the low bits of `x`. -/
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:2561]: Can this be linebroken at the end of 80 or 100 columns, rather than at seemingly arbitrary places.

**Review by tobiasgrosser — APPROVED** [review]

File: src/Init/Data/BitVec/Lemmas.lean (hunk 9 above)
Comment (bollu) [reply src/Init/Data/BitVec/Lemmas.lean:2561]: I don't think so, I line-broke it at readable sections, so there's one at the `,`, and one where the sentence naturally ends. Happy to take a re-phrasing that line-breaks at english stops :)

Comment (alexkeizer) [inline src/Init/Data/BitVec/Lemmas.lean:2561]:
```suggestion
/-- A sign extension of `x : BitVec w` equals high bits of either `0` or `1` depending on `x.msb`,
followed by the low bits of `x`. -/
```
This already seems a bit more natural, and looks like it fits into 100 columns

Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean]: Can we use a line-break-algorithm that aligns with what latex or any standard word-processor would do. Meaning, fill lines until we reach the end of the column and then break.

**Comment by bollu** [comment]
Note that the symmetric version with `v ≤ w`  is available as

```
theorem signExtend_eq_setWidth_of_lt (x : BitVec w) {v : Nat} (hv : v ≤ w) :
  x.signExtend v = x.setWidth v := signExtend_eq_setWidth_of_le x hv
```
